### PR TITLE
[Merged by Bors] - feat(Combinatorics/Nullstellensatz): Alon's combinatorial Nullstellensatz

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This is a formalization of Alon's Combinatorial Nullstellensatz.

Meanwhile, prove several results
* a multivariate polynomial that vanishes on a too large product set vanishes identically

Probably, this  file should belong to the `RingTheory.MvPolynomial` hierarchy.

---

- [x] depends on: #16177 
- [x] depends on: #21546

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by YaelDillies** [comment]
Can you merge master to reduce the diff?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 1]
```diff
@@ -0,0 +1,312 @@
...
+    · rw [hj, mapDomain_apply (Function.injective_of_subsingleton _), single_eq_same]
+    · rw [mapDomain_notin_range, single_eq_of_ne (Ne.symm hj)]
+      simp [Set.range_const, Set.mem_singleton_iff, hj]
+
+variable [Fintype σ]
+
+theorem Alon1 [IsDomain R] (S : σ → Finset R) (Sne : ∀ i, (S i).Nonempty)
+    (f : MvPolynomial σ R) (Heval : ∀ (x : σ → R), (∀ i, x i ∈ S i) → eval x f = 0) :
+    ∃ (h : σ →₀ MvPolynomial σ R)
+      (_ : ∀ i, ((S i).prod (fun s ↦ X i - C s) * (h i)).totalDegree ≤ f.totalDegree),
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:233]: Can you use the big operators notation?
```suggestion
      (_ : ∀ i, ((∏ s ∈ S i, X i - C s) * (h i)).totalDegree ≤ f.totalDegree),
```
Here and everywhere else

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 2]
```diff
@@ -0,0 +1,312 @@
...
+    simp only [Finset.sum_const, smul_single, smul_eq_mul, mul_one]
+  · intro r hr
+    convert isRegular_one
+    simp only [leadingCoeff, H r hr]
+    simp only [coeff_sub, coeff_single_X, true_and, if_true, coeff_C, sub_eq_self]
+    rw [if_neg]
+    intro h
+    apply zero_ne_one (α := ℕ)
+    simp only [Finsupp.ext_iff, coe_zero, Pi.zero_apply] at h
+    rw [h i, single_eq_same]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:177]: Can these move earlier?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 3]
```diff
@@ -0,0 +1,312 @@
...
+import Mathlib.Algebra.MvPolynomial.Equiv
+import Mathlib.Algebra.Polynomial.Degree.Definitions
+import Mathlib.Data.Finsupp.MonomialOrder.DegLex
+import Mathlib.Data.Set.Card
+import Mathlib.RingTheory.Ideal.Maps
+import Mathlib.RingTheory.MvPolynomial.Groebner
+import Mathlib.RingTheory.MvPolynomial.Homogeneous
+import Mathlib.RingTheory.MvPolynomial.MonomialOrder.DegLex
+
+/-! # Alon's Combinatorial Nullstellensatz -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:15]: Could you expand on what it says? and maybe give a reference, eg to that paper Bhavik and I were thinking of formalising which talks about all the related theorems

**Review by YaelDillies — COMMENTED** [review]
Could you sprinkle the file with docstrings of the form
```
/-- Version of **Alon's Combinational Nullstellensatz** for sets.

Say what it means. -/
```
so that a reader can understand how versions differ, and whether they need a version that's not here yet.

**Comment by YaelDillies** [comment]
> * The names `Alon1` and `Alon2` of the functions are not to stay, but I need suggestions.

My suggestion would be `alon_combinatorial_nullstellensatz_descriptor` where I'll let you choose what `descriptor` should be. See [my formalisation of Schwartz-Zippel](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/MvPolynomial/SchwartzZippel.html) for an example.

**Comment by AntoineChambert-Loir** [comment]
What about using a `namespace` such as `CombinatorialNullstellensatz`? This would allow to `open` it and have short theorem names in case it's used a lot.

**Comment by YaelDillies** [comment]
Not against it, but in my mind in applications you usually want to use a single version out of the many offered, so there isn't really a point in opening the namespace.

**Comment by AntoineChambert-Loir** [comment]
I'm also driven by the fact that I, myself, had opened a `Alon` namespace that contains some intermediate definitions.

**Comment by YaelDillies** [comment]
I am not really set myself, but I think one should explicitly *not* use proof-specific namespaces for the end results. See eg `ChevalleyComplexity` in #21021 for a rather extreme case where doing would result in confusion (there are three `degBound`s, depending on which induction you're in).

File: Mathlib/Combinatorics/Nullstellensatz.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:177]: I moved the first two to MonomialOrder and deleted the last one (it isn't used)

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 4]
```diff
@@ -231,6 +227,9 @@ variable [Fintype σ]
 
 open scoped BigOperators
 
+/-- The Combinatorial Nullstellensatz : existence of a linear combination
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:230]:
```suggestion
/-- The **Combinatorial Nullstellensatz** : existence of a linear combination
```
Same below

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 5]
```diff
@@ -139,13 +141,7 @@ theorem eq_zero_of_eval_zero_at_prod_nat {n : ℕ} [IsDomain R]
...
       simpa only [Polynomial.coeff_map, Polynomial.coeff_zero] using Heval' m
 
-theorem weightedTotalDegree_rename_of_injective {σ τ : Type*} [DecidableEq τ] {e : σ → τ}
-    {w : τ → ℕ} {P : MvPolynomial σ R} (he : Function.Injective e) :
-    weightedTotalDegree w ((rename e) P) = weightedTotalDegree (w ∘ e) P := by
-  unfold weightedTotalDegree
-  rw [support_rename_of_injective he, Finset.sup_image]
-  congr; ext; unfold weight; simp
-
+/-- A multivariate polynomial that vanishes at a large product set is the zero polynomial. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:144]:
```suggestion
/-- A multivariate polynomial that vanishes on a large product set is the zero polynomial. -/
```
is more accurate, cf `ContinuousAt` vs `ContinuousOn`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 6]
```diff
@@ -469,4 +469,58 @@ theorem isUnit_leadingCoeff {f : MvPolynomial σ R} :
 
 end Field
 
+section Binomial
+
+variable {R : Type*} [CommRing R]
+
+open Finsupp MvPolynomial
+
+lemma degree_binomial [Nontrivial R]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:478]:
```suggestion
lemma degree_X_sub_C [Nontrivial R]
```
is how existing lemmas call it

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 7]
```diff
@@ -469,4 +469,58 @@ theorem isUnit_leadingCoeff {f : MvPolynomial σ R} :
...
+    intro h
+    apply zero_ne_one (α := ℕ)
+    simp only [Finsupp.ext_iff, coe_zero, Pi.zero_apply] at h
+    rw [h i, single_eq_same]
+  · by_contra H'
+    exact H (nontrivial_of_ne _ _ H')
+
+/- theorem prod_binomial_degree [Nontrivial R]
+    {ι : Type*} (m : MonomialOrder ι) (i : ι) (s : Finset R) :
+    m.degree (∏ r ∈ s, (X i - C r)) = single i s.card := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:502]: What's the situation here?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 8]
```diff
@@ -0,0 +1,319 @@
...
+private theorem Alon.degP [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
+    m.degree (Alon.P S i) = single i S.card := by
+  simp only [P]
+  rw [degree_prod_of_regular]
+  · simp [Finset.sum_congr rfl (fun r _ ↦ m.degree_binomial i r)]
+  · intro r _
+    simp only [leadingCoeff_binomial, isRegular_one]
+
+/-- The leading coefficient of `Alon.P S i` is `1`. -/
+private theorem Alon.leadingCoeffP [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:189]: It's private, but it's also easy enough to name it correctly
```suggestion
private theorem Alon.leadingCoeff_P [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 9]
```diff
@@ -0,0 +1,319 @@
...
+
+variable {σ : Type*}
+
+/-- The polynomial in `X i` that vanishes at all elements of `S`. -/
+private noncomputable def Alon.P (S : Finset R) (i : σ) : MvPolynomial σ R :=
+  ∏ r ∈ S, (X i - C r)
+
+/-- The degree of `Alon.P S i` with respect to `X i` is the cardinality of `S`,
+  and `0` otherwise. -/
+private theorem Alon.degP [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:180]:
```suggestion
private theorem Alon.degree_P [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
```

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:502]: It's not used anymore, I'll delete it now.

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 10]
```diff
@@ -0,0 +1,315 @@
...
+  by_contra hP
+  apply not_le.mpr Hdeg
+  apply le_trans _ (Polynomial.card_roots' P)
+  apply le_trans _ (Multiset.toFinset_card_le _)
+  simp only [← Set.ncard_coe_Finset]
+  apply Set.ncard_le_ncard _ P.roots.toFinset.finite_toSet
+  intro s hs
+  simp only [Finset.mem_coe, Multiset.mem_toFinset, Polynomial.mem_roots', ne_eq,
+    Polynomial.IsRoot.def]
+  refine ⟨hP, Heval s hs⟩
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:75]:
```suggestion
  exact ⟨hP, Heval s hs⟩
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 11]
```diff
@@ -0,0 +1,315 @@
...
+-/
+
+open Finsupp
+
+variable {R : Type*} [CommRing R]
+
+/-- A polynomial that vanishes at more points than its degree is the zero polynomial. -/
+theorem _root_.Polynomial.eq_zero_of_eval_zero [IsDomain R] (P : Polynomial R) (S : Set R)
+    (Hdeg : Polynomial.natDegree P < S.ncard) (Heval : ∀ x ∈ S, P.eval x = 0) :
+    P = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:64]: I feel like this lemma belongs in an earlier file. Can you try moving?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 12]
```diff
@@ -0,0 +1,315 @@
...
+    · rw [mapDomain_notin_range, single_eq_of_ne (Ne.symm hj)]
+      simp [Set.range_const, Set.mem_singleton_iff, hj]
+
+variable [Fintype σ]
+
+open scoped BigOperators
+
+/-- The **Combinatorial Nullstellensatz** : existence of a linear combination
+
+[Alon_1999], theorem 1. -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:232]: Can you copy the blurb explaining this lemma from the module doc?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 13]
```diff
@@ -0,0 +1,315 @@
...
+    intro i _
+    rw [smul_eq_mul, map_mul]
+    convert mul_zero _
+    rw [Alon.P, map_prod]
+    apply Finset.prod_eq_zero (hx i)
+    simp
+
+/-- The **Combinatorial Nullstellensatz** : existence of a nonzero evaluation
+
+[Alon_1999], theorem 2 -/
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:272]: Same here

File: Mathlib/Combinatorics/Nullstellensatz.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:64]: There's an issue with `Set.ncard` that isn't accessible in files such as `Polynomial.Roots`.
On the other hand, I could as well work with `S : Finset R`, and then the issue would disappear.

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:65]: I agree in principle that this lemma and the one in several variables (for product sets) belong elsewhere.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Nullstellensatz.lean:65]: > There's an issue with `Set.ncard` that isn't accessible in files such as `Polynomial.Roots`.

What happens if you import it there? Does the number of transitive imports explode? (I would hope not, but I don't know)

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 14]
```diff
@@ -0,0 +1,324 @@
...
+variable {σ : Type*}
+
+/-- The polynomial in `X i` that vanishes at all elements of `S`. -/
+private noncomputable def Alon.P (S : Finset R) (i : σ) : MvPolynomial σ R :=
+  ∏ r ∈ S, (X i - C r)
+
+/-- The degree of `Alon.P S i` with respect to `X i` is the cardinality of `S`,
+  and `0` otherwise. -/
+private theorem Alon.degree_P [Nontrivial R] (m : MonomialOrder σ) (S : Finset R) (i : σ) :
+    m.degree (Alon.P S i) = single i S.card := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:182]:
```suggestion
    m.degree (Alon.P S i) = single i #S := by
```
and everywhere else. You'll need `open scoped Finset`

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean [hunk 15]
```diff
@@ -469,4 +469,34 @@ theorem isUnit_leadingCoeff {f : MvPolynomial σ R} :
...
+lemma degree_X_sub_C [Nontrivial R]
+    {ι : Type*} (m : MonomialOrder ι) (i : ι) (r : R) :
+    m.degree (X i - C r) = single i 1 := by
+  rw [degree_sub_of_lt, degree_X]
+  simp only [degree_C, map_zero, degree_X]
+  rw [← bot_eq_zero, bot_lt_iff_ne_bot, bot_eq_zero, ← map_zero m.toSyn]
+  simp
+
+lemma leadingCoeff_X_sub_C {ι : Type*} (m : MonomialOrder ι) (i : ι) (r : R) :
+    m.leadingCoeff (X i - C r) = 1 := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]: Do we not have `MonomialOrder.Monic`?

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 16]
```diff
@@ -0,0 +1,324 @@
...
+    convert isRegular_one
+    apply leadingCoeff_X_sub_C
+
+/-- The support of `Alon.P S i` is the set of exponents of the form `single i e`,
+  for `e ≤ S.card`. -/
+private lemma Alon.of_mem_P_support {ι : Type*} (i : ι) (S : Finset R) (m : ι →₀ ℕ)
+    (hm : m ∈ (Alon.P S i).support) :
+    ∃ e ≤ S.card, m = single i e := by
+  classical
+  have hP : Alon.P S i = MvPolynomial.rename (fun (_ : Unit) ↦ i) (Alon.P S ()) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:207]:
```suggestion
  have hP : Alon.P S i = .rename (fun _ ↦ i) (Alon.P S ())  := by
```

File: Mathlib/RingTheory/MvPolynomial/Homogeneous.lean [hunk 17]
```diff
@@ -52,6 +52,13 @@ theorem weightedTotalDegree_one (φ : MvPolynomial σ R) :
     linearCombination, Pi.one_apply, Finsupp.coe_lsum, LinearMap.coe_smulRight, LinearMap.id_coe,
     id, Algebra.id.smul_eq_mul, mul_one]
 
+theorem weightedTotalDegree_rename_of_injective {σ τ : Type*} [DecidableEq τ] {e : σ → τ}
+    {w : τ → ℕ} {P : MvPolynomial σ R} (he : Function.Injective e) :
+    weightedTotalDegree w ((rename e) P) = weightedTotalDegree (w ∘ e) P := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/MvPolynomial/Homogeneous.lean:57]:
```suggestion
    weightedTotalDegree w (rename e P) = weightedTotalDegree (w ∘ e) P := by
```

**Review by YaelDillies — COMMENTED** [review]
This looks very good now. I will try golfing once and if we can't resolve the relocation issue for the first two lemmas then LGTM

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]: No. I can add it, following what is done for `Polynomial.Monic`.

Comment (YaelDillies) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]: Great! (in a separate PR, pretty please 🙏)

Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]: but probably a new PR would be a better fit.

File: Mathlib/Combinatorics/Nullstellensatz.lean (hunk 11 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:65]: I'll do that. I don't know how to get the count of the transitive imports.

Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:65]: Contreordre. I didn't do that. I observed that the finset case already existed and moved my lemmas to finset.
In fact, this is the context of the Comb.NS.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Nullstellensatz.lean]: > I'll do that. I don't know how to get the count of the transitive imports.

I'd say push and wait for the bot to yell at you on the PR

File: Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/RingTheory/MvPolynomial/MonomialOrder.lean:487]: #21546
I added a lot about this, but I'm not sure I wish to do much more.

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 18]
```diff
@@ -0,0 +1,299 @@
...
+
+Given a multi-index `t : σ →₀ ℕ` such that `t s < (S s).card` for all `s`,
+`f.totalDegree = t.degree` and `f.coeff t ≠ 0`,
+there exists a point `x : σ → R` such that `x s ∈ S s` for all `s` and `f.eval s ≠ 0`.
+
+[Alon_1999], theorem 2 -/
+theorem combinatorial_nullstellensatz_exists_eval_nonzero [IsDomain R]
+    (f : MvPolynomial σ R)
+    (t : σ →₀ ℕ) (ht : f.coeff t ≠ 0) (ht' : f.totalDegree = t.degree)
+    (S : σ → Finset R) (htS : ∀ i, t i < (S i).card) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:261]:
```suggestion
    (S : σ → Finset R) (htS : ∀ i, t i < #(S i)) :
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 19]
```diff
@@ -0,0 +1,299 @@
...
+      specialize Heval' x hx
+      rw [Polynomial.ext_iff] at Heval'
+      simpa only [Polynomial.coeff_map, Polynomial.coeff_zero] using Heval' m
+
+/-- A multivariate polynomial that vanishes on a large product finset is the zero polynomial. -/
+theorem eq_zero_of_eval_zero_at_prod_finset {σ : Type*} [Finite σ] [IsDomain R]
+    (P : MvPolynomial σ R) (S : σ → Finset R)
+    (Hdeg : ∀ i, P.degreeOf i < #(S i))
+    (Heval : ∀ (x : σ → R), (∀ i, x i ∈ S i) → eval x P = 0) :
+    P = 0 := by
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean:131]: I see your point, but unfortunately, docs#MvPolynomial.eval_eq_eval_mv_eval' is only for `Fin n.succ`. Let's see if I dare making the alternative version.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean]: Please have a look.

[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean]: I'm not completely happy with the `optionEquivLeft_coeff_coeff`, maybe it should incorporate what I do in the `Nullstellensatz` file. The point is that one needs, given `m : sigma to0 Nat` and `d: Nat` to construct an `n : Option sigma to0 Nat`, and the simplest way I found is adding `single` and `embDomain...`.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 20]
```diff
@@ -319,6 +319,62 @@ lemma optionEquivLeft_X_none : optionEquivLeft R S₁ (X none) = Polynomial.X :=
 lemma optionEquivLeft_C (r : R) : optionEquivLeft R S₁ (C r) = Polynomial.C (C r) := by
   simp only [optionEquivLeft_apply, aeval_C, Polynomial.algebraMap_apply, algebraMap_eq]
 
+lemma _root_.Polynomial.monomial_eq (m : ℕ) (r : R) :
+    Polynomial.monomial m r = Polynomial.C r * (Polynomial.X ^ m) :=
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: I suggest that we delete this lemma which is just [Polynomial.C_mul_X_pow_eq_monomial](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Basic.html#Polynomial.C_mul_X_pow_eq_monomial) reversed.

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 21]
```diff
@@ -319,6 +319,58 @@ lemma optionEquivLeft_X_none : optionEquivLeft R S₁ (X none) = Polynomial.X :=
...
+  · rw [MvPolynomial.monomial_eq, ← Polynomial.C_mul_X_pow_eq_monomial]
+    simp only [Polynomial.algebraMap_apply, algebraMap_eq, Option.elim_none, Option.elim_some,
+      map_mul, mul_assoc]
+    apply congr_arg₂ _ rfl
+    simp only [mul_comm, map_finsupp_prod, map_pow]
+  · intros; simp
+  · intros; rw [pow_add]
+
+/-- The coefficient of `m` in the `i`-th coefficient of `optionEquivLeft R S₁ f` equals the
+coefficient of … in `f` -/
```
Comment (AntoineChambert-Loir) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:334]:
```suggestion
/-- The coefficient of `n.some` in the `n none`-th coefficient of `optionEquivLeft R S₁ f` equals the
coefficient of `n` in `f` -/
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 22]
```diff
@@ -0,0 +1,307 @@
...
+  · simp only [coe_add, Pi.add_apply, single_eq_same]
+    rw [embDomain_notin_range _ _ _ ?_, zero_add]
+    rintro ⟨s, hs⟩
+    exact Option.some_ne_none s hs
+  · rw [Finsupp.ext_iff]
+    apply forall_congr'
+    intro s
+    simp only [coe_add, Pi.add_apply, ne_eq, reduceCtorEq, not_false_eq_true, single_eq_of_ne,
+      add_zero, some_apply]
+    rw [← Embedding.some_apply, embDomain_apply, Embedding.some_apply]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Nullstellensatz.lean:77]: Can this move earlier?

**Review by YaelDillies — APPROVED** [review]
Looks all good to me. I'll let @b-mehta do the final call.

File: Mathlib/Data/Finsupp/Basic.lean [hunk 23]
```diff
@@ -753,6 +753,22 @@ theorem sum_option_index_smul [Semiring R] [AddCommMonoid M] [Module R M] (f : O
     (f.sum fun o r => r • b o) = f none • b none + f.some.sum fun a r => r • b (Option.some a) :=
   f.sum_option_index _ (fun _ => zero_smul _ _) fun _ _ _ => add_smul _ _ _
 
+theorem option_embedding_add_single [AddCommMonoid M] {n : Option α →₀ M} {m : α →₀ M} {i : M} :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Finsupp/Basic.lean:756]:
```suggestion
theorem option_embedding_add_single [AddCommMonoid M] {n : Option α →₀ M} {m : α →₀ M} {i : M} :
```

File: Mathlib/Data/Finsupp/Basic.lean [hunk 24]
```diff
@@ -753,6 +753,22 @@ theorem sum_option_index_smul [Semiring R] [AddCommMonoid M] [Module R M] (f : O
...
+    (n = embDomain Embedding.some m + single none i) ↔
+      n none = i ∧ n.some = m := by
+  rw [ext_iff, Option.forall]
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Finsupp/Basic.lean:759]:
```suggestion
  rw [Finsupp.ext_iff, Option.forall]
```

File: Mathlib/Combinatorics/Nullstellensatz.lean (hunk 22 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean]: yes, to Mathlib/Data/Finsupp/Basic, and generalized from Nat to any AddCommMonoid.

File: Mathlib/Combinatorics/Nullstellensatz.lean (hunk 19 above)
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/Combinatorics/Nullstellensatz.lean]: This is now done using update.

**Comment by YaelDillies** [comment]
LGTM since Bhavik is seemingly unavailable

maintainer merge

File: Mathlib/Data/Finsupp/Basic.lean [hunk 25]
```diff
@@ -753,6 +753,18 @@ theorem sum_option_index_smul [Semiring R] [AddCommMonoid M] [Module R M] (f : O
     (f.sum fun o r => r • b o) = f none • b none + f.some.sum fun a r => r • b (Option.some a) :=
   f.sum_option_index _ (fun _ => zero_smul _ _) fun _ _ _ => add_smul _ _ _
 
+theorem eq_option_embedding_update_none_iff [Zero M] {n : Option α →₀ M} {m : α →₀ M} {i : M} :
+    (n = (embDomain Embedding.some m).update none i) ↔
```
Comment (b-mehta) [inline Mathlib/Data/Finsupp/Basic.lean:757]:
```suggestion
    n = (embDomain Embedding.some m).update none i ↔
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 26]
```diff
@@ -0,0 +1,291 @@
...
+      · apply lt_of_le_of_lt _ (Hdeg none)
+        rw [Polynomial.natDegree_le_iff_coeff_eq_zero]
+        intro d hd
+        simp only [hQ]
+        rw [MvPolynomial.coeff_eval_eq_eval_coeff]
+        convert map_zero (MvPolynomial.eval x)
+        ext m
+        simp only [coeff_zero, optionEquivLeft_coeff_coeff]
+        set n := (embDomain Function.Embedding.some m).update none d with hn
+        -- set n := embDomain Function.Embedding.some m + Finsupp.single none d with hn
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Nullstellensatz.lean:114]:
```suggestion
```

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 27]
```diff
@@ -0,0 +1,291 @@
...
+for some `h : σ →₀ MvPolynomial σ R` such that
+`((∏ r ∈ S s, (X i - C r)) * h i).totalDegree ≤ f.totalDegree` for all `s`.
+
+[Alon_1999], theorem 1. -/
+theorem combinatorial_nullstellensatz_exists_linearCombination
+    [IsDomain R] (S : σ → Finset R) (Sne : ∀ i, (S i).Nonempty)
+    (f : MvPolynomial σ R) (Heval : ∀ (x : σ → R), (∀ i, x i ∈ S i) → eval x f = 0) :
+    ∃ (h : σ →₀ MvPolynomial σ R)
+      (_ : ∀ i, ((∏ s ∈ S i, (X i - C s)) * h i).totalDegree ≤ f.totalDegree),
+    f = linearCombination (MvPolynomial σ R) (fun i ↦ ∏ r ∈ S i, (X i - C r)) h := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Nullstellensatz.lean:211]: Perhaps I'm missing something, but it looks like this should be written as `∃ (h : σ →₀ MvPolynomial σ R),` then the conjunction of the two statements, rather than a double-exists? That is, the rhs of [exists_prop](https://leanprover-community.github.io/mathlib4_docs/Init/PropLemmas.html#exists_prop) rather than the lhs.

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 28]
```diff
@@ -0,0 +1,291 @@
...
+    rw [degreeOf_eq_sup, Finset.sup_lt_iff (by simp [Sne i])]
+    intro c hc
+    rw [← not_le]
+    intro h'
+    apply hr c hc i
+    intro j
+    rw [Alon.degree_P, single_apply]
+    split_ifs with hj
+    · rw [← hj]
+      exact h'
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Nullstellensatz.lean:230]:
```suggestion
    · rwa [← hj]
```
optional and untested, but it appears cleaner here!

File: Mathlib/Combinatorics/Nullstellensatz.lean [hunk 29]
```diff
@@ -0,0 +1,291 @@
...
+Given a multi-index `t : σ →₀ ℕ` such that `t s < (S s).card` for all `s`,
+`f.totalDegree = t.degree` and `f.coeff t ≠ 0`,
+there exists a point `x : σ → R` such that `x s ∈ S s` for all `s` and `f.eval s ≠ 0`.
+
+[Alon_1999], theorem 2 -/
+theorem combinatorial_nullstellensatz_exists_eval_nonzero [IsDomain R]
+    (f : MvPolynomial σ R)
+    (t : σ →₀ ℕ) (ht : f.coeff t ≠ 0) (ht' : f.totalDegree = t.degree)
+    (S : σ → Finset R) (htS : ∀ i, t i < #(S i)) :
+    ∃ (s : σ → R) (_ : ∀ i, s i ∈ S i), eval s f ≠ 0 := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/Nullstellensatz.lean:254]: as before

**Review by b-mehta — APPROVED** [review]
This looks very nice, thank you! And my sincerest apologies for the delay.

bors d+

**Comment by AntoineChambert-Loir** [comment]
bors r+

Le 6 avril 2025 21:29:20 GMT+02:00, "mathlib-bors[bot]" ***@***.***> a écrit :
